US06136800
A suspension of 1.2 g of 17-difluoromethylene-11β-methoxy-3-tetrahydropyranyloxy-estra-1,3,5(10)-triene in 25 ml of methanol and 2.6 ml of water is refluxed with 1.2 g of oxalic acid for 0.5 hour at a bath temperature of 100° C. Then, it is concentrated by evaporation in a vacuum diluted with ethyl acetate, washed with water, sodium bicarbonate solution as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/acetone. After crystallization from hexane, 0.9 g of 17-difluoromethylene-11β-methoxy-estra-1,3,5(10)-trien-3-ol is obtained as colorless crystals with a melting point of 245-247° C., [α]D22 +77.3° (c=0.535% in pyridine).

reactant | 17-difluoromethylene-11β-methoxy-3-tetrahydropyranyloxy-estra-1,3,5(10)-triene | 1.2 g | FC(=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1[C@H](C2)OC)OC2OCCCC2)F | C25H32F2O3
reactant | oxalic acid | 1.2 g | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 2.6 ml | O | H2O
product | 17-difluoromethylene-11β-methoxy-estra-1,3,5(10)-trien-3-ol | 0.9 g | FC(=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1[C@H](C2)OC)O)F | C20H24F2O2
